.subckt LT6220 1 2 3 4 5
A1 2 1 0 0 0 0 0 0 OTA g=0 in=.8p ink=38
B1 0 N004 I=10u*dnlim(uplim(V(1),V(3)+.2,.1), V(4)-.2, .1)+1n*V(1)-523p
B2 N004 0 I=10u*dnlim(uplim(V(2),V(3)+.21,.1), V(4)-.21, .1)+1n*V(2)
C10 N004 0 .1f Rpar=100K noiseless
D4 3 N011 DBIAZ
M1 5 N012 4 4 NI temp=27
C2 3 5 1p Rpar=1Meg noiseless
M2 5 N005 3 3 PI temp=27
C3 3 N005 20f Rser=200Meg noiseless
A3 N006 N009 4 4 4 4 N005 4 OTA g=20n ref=-.078 linear vlow=-1e308 vhigh=1e308
C11 5 4 1p Rpar=1Meg noiseless
C12 N012 4 1f Rser=700Meg noiseless
D10 1 N011 DBIA1
D11 2 N011 DBIA1
D6 N012 4 DLIMN1
A4 0 N004 0 0 0 0 N007 0 OTA g=1u linear en=10n enk=38.6 cout=68f Vlow=-1e308 Vhigh=1e308
C16 N009 5 110f
A5 N008 0 N006 N006 N006 N006 N009 N006 OTA g=52u iout=2.95u Rout=8Meg Vhigh=1e308 Vlow=-1e308
D12 1 3 DESD
D13 2 3 DESD
G1 4 N012 N009 N006 4n
C5 N011 4 20p Rpar=22.7k noiseless
C7 3 1 1p Rpar=1G noiseless
C13 3 4 1000p
G4 0 N008 N007 0 1m
D14 3 N005 DLIMP1
L1 N008 0 18.5 Cpar=38f Rser=1.1k Rpar=11k noiseless
D15 1 2 DIN
D16 N011 1 DBIA2
D3 N011 2 DBIA2
D1 4 2 DESD
D2 4 1 DESD
C1 3 2 1p Rpar=1G noiseless
C6 1 4 1p Rpar=1G noiseless
C8 2 4 1p Rpar=1G noiseless
G2 0 N006 3 0 .5m
G3 0 N006 4 0 .5m
C14 N006 0 .2p Rpar=1K
D18 3 N005 DLIMP2
D19 N012 4 DLIMN2
D20 N007 0 DLIM
C4 N008 5 50f
.model DBIA1 D(Ron=100k Roff=1g  Vfwd=0  ilimit=260n epsilon=.1 noiseless)
.model DBIA2 D(Ron=1Meg Roff=10g Vfwd=-.1 epsilon=.1 ilimit=10n noiseless)
.model DBIAZ D(Ron=100 Roff=100G Vfwd=1 epsilon=10m noiseless)
.model DESD D(Ron=100 Roff=100T Vfwd=1 epsilon=50m noiseless)
.model DLIMN1 D(Ron=1Meg Roff=10g Vfwd=1 Vrev=340m epsilon=700m revepsilon=100m  noiseless)
.model DLIMN2 D(Ron=200Meg Roff=10g Vfwd=.6 epsilon=.6 noiseless)
.model DLIMP1 D(Ron=100k Roff=400Meg Vfwd=1 Vrev=340m epsilon=500m revepsilon=100m noiseless)
.model DLIMP2 D(Ron=50Meg Roff=10G Vfwd=.7 epsilon=.6 noiseless)
.model PI VDMOS(Vto=-300m kp=80m pchan)
.model NI VDMOS(Vto=300m kp=80m)
.model DLIM D(Ron=1k Roff=1Meg Vfwd=52m epsilon=10m Vrev=52m revepsilon=10m noiseless)
.model DIN D(Ron=1k Roff=100Meg Vfwd=1.5 Vrev=1.5 epsilon=100m revepsilon=100m noiseless)
.ends LT6220
